US07994171B2
2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyrimidin-5-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide.
To a mixture of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid (0.1 g, 0.25 mmol, 1 eq), 1-(pyrimidin-5-yl)cyclopropanamine (0.041 g, 0.3 mmol, 1.2 eq) (60% purity), HOBT (0.057 g, 0.42 mmol, 1.7 eq), EDC.HCl (0086 g, 0.44 mmol, 1.8 eq) in DCM at ambient temperature under nitrogen was added Diisopropylehtylamine (0.162 g, 1.2 mmol, 5.0 eq). The clear mixture was stirred at ambient temperature for overnight. The mixture was concentrated, diluted with water and extracted with EtOAc. The organic layer is further washed with water, dried over sodium sulphate and concentrated. The product obtained was further purified by column chromatography (neutral alumina) using 0.5% Methanol/DCM and finally it was purified by preparative HPLC. Yield: 0.02 g (20%). 1H NMR (400 MHz, DMSO-d6): δ 1.34-1.35 (m, 2H), 1.41-1.42 (m, 2H), 2.29 (s, 3H), 2.81-2.82 (d, 3H), J=4.56 Hz), 738-7.45 (m, 4H), 7.58 (d, 1H, J=0.96 Hz), 7.75 (d, 1H, J=8.4 Hz), 7.81 (s, 1H), 7.83 (m, 1H), 7.98-8.01 (m, 2H), 8.46-8.47 (d, 1H, J=4.6 Hz), 8.64 (s, 2H), 9.01 (s, 1H), 9.31 (s, 1H). LCMS: (ES+) m/z=521.2 (M+H). LCMS Method: Column-Ascentis Express C18 (5×2.1 mm-2.7 μm) Mphase A: 2% ACN-98% H2O-10 mM NH4COOH Mphase B: 98% ACN-2% H2O-10 mM NH4COOH Flow: 1 ML/Min

reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)-4-methylbenzoic acid | 0.25 mmol, 0.1 g, 1 eq | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2C | C24H18FNO4
reactant | 1-(pyrimidin-5-yl)cyclopropanamine | 0.3 mmol, 0.041 g, 1.2 eq | N1=CN=CC(=C1)C1(CC1)N | C7H9N3
reactant | HOBT | 0.42 mmol, 0.057 g, 1.7 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC.HCl | 0.44 mmol, 1.8 eq | CCN=C=NCCCN(C)C.Cl
reactant | Diisopropylehtylamine | 1.2 mmol, 0.162 g, 5.0 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyrimidin-5-yl)cyclopropylcarbamoyl)phenyl)benzofuran-3-carboxamide | FC1=CC=C(C=C1)C=1OC2=C(C1C(=O)NC)C=C(C=C2)C2=C(C=CC(=C2)C(NC2(CC2)C=2C=NC=NC2)=O)C | C31H25FN4O3
